US07034039B2
A mixture of tert-butyl[6-(cyanomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.13 g, 0.29 mmol), 2N potassium hydroxide solution (5 mL) and ethanol (5 mL) was refluxed for 4 h. The reaction mixture was diluted with 0.1N sodium hydroxide solution (100 mL) and washed with ethyl acetate (20 mL×2). The aqueous layer was separated, acidified with 1N hydrochloric acid and extracted with ethylacetate (100 mL×2). The organic layers were combined, washed with brine (20 mL), saturated aqueous sodium hydrogencarbonate (50 mL) and brine (50 mL), dried over, anhydrous magnesium sulfate and concentrated under reduced pressure to give (3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-6-yl)acetic acid (0.36 g, 87%) as a pale yellow oil.

reactant | tert-butyl[6-(cyanomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.29 mmol, 0.13 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)CC#N)=O)CC(C)C)=O | C27H31N3O3
reactant | potassium hydroxide | 2N, 5 mL | [OH-].[K+]
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 0.1N, 100 mL | [OH-].[Na+]
product | (3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-6-yl)acetic acid | 0.36 g, 87% | C(C)(C)(C)OC(=O)NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)CC(=O)O)=O)CC(C)C | C27H32N2O5
